US06274610B1
At temperatures between 0 and 5° C., first a solution of 1.28 ml (6 mmol) of methyl chloroformate in 10 ml of absolute dichloromethane and then 0.84 ml (6 mmol) of triethylamine are added dropwise with stirring to a mixture of 1.72 g (5 mmol) of 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(5-mercapto-1,2,4-triazol-1-yl)-propan-2-ol and 10 ml of absolute dichloromethane. After the addition, the reaction mixture is stirred at room temperature for a further 2 hours and then diluted with dichloromethane and washed with ice-cold aqueous sodium carbonate solution. The organic phase is dried over sodium sulphate and subsequently concentrated under reduced pressure. The 1.7 g of crude product that remain are chromatographed over silica gel using a mixture of petroleum ether/ethyl acetate=1:1. Concentration of the eluate gives 0.7 g (35% of theory) of 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(5-methoxycarbonylthio-1,2,4-triazol-1-yl)-propan-2-ol in the form of an oil.

reactant | methyl chloroformate | 6 mmol, 1.28 ml | ClC(=O)OC | C2H3ClO2
reactant | triethylamine | 6 mmol, 0.84 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(5-mercapto-1,2,4-triazol-1-yl)-propan-2-ol | 5 mmol, 1.72 g | ClC1(CC1)C(CC1=C(C=CC=C1)Cl)(CN1N=CN=C1S)O | C14H15Cl2N3OS
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(5-methoxycarbonylthio-1,2,4-triazol-1-yl)-propan-2-ol | 0.7 g, 35% | ClC1(CC1)C(CC1=C(C=CC=C1)Cl)(CN1N=CN=C1SC(=O)OC)O | C16H17Cl2N3O3S
